US05441955
10-Fluoroindolo[2,1-b]quinazoline-6,12-dione
A solution of 7-fluoroisatin (300 mg, 1.8 mmol), isatoic anhydride (1.2 g, 7.3 mmol), and dimethylaminopyridine (222 mg, 2 mmol) in 5 mL of pyridine were heated at reflux temperature for 64 h. 50 mL of 0.2N HCl and 100 mL of chloroform were added and the chloroform layer was separated. The water layer was extracted with chloroform and the combined organic extracts were concentrated. Chromatography on silica gel eluting with chloroform gave the title compound in 14% yield: mp 264°-267° C.; 1H NMR (300 MHz, CDCl3) δ 8.46 (d, 1H) 8.02 (d, 1H) 7.82-7.92 (m, 1H) 7.79 (d, 1H) 7.64-7.74 (m, 1H) 7.52-7.64 (m, 1H) 7.40-7.49 (m, 1H).

reactant | 7-fluoroisatin | 1.8 mmol, 300 mg | FC=1C=CC=C2C(C(NC12)=O)=O | C8H4FNO2
reactant | isatoic anhydride | 7.3 mmol, 1.2 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | dimethylaminopyridine | 2 mmol, 222 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | HCl | 0.2N, 50 mL | Cl | ClH
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 10-Fluoroindolo[2,1-b]quinazoline-6,12-dione | 14% yield | FC=1C=CC=C2C(C3=NC4=CC=CC=C4C(N3C12)=O)=O | C15H7FN2O2
